US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (468 mg) was coupled to p-chloro phenylboronic acid to provide 1-(4-chlorophenyl)-3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (50 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 468 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | p-chloro phenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 1-(4-chlorophenyl)-3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 50 mg | ClC1=CC=C(C=C1)N1S(N(CC2=C1C=CC=C2)CCCCl)(=O)=O | C16H16Cl2N2O2S
